US09085583B2
To a solution of tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H pyrrolo[2,3-b]pyridine-3-carboxylate (0.6 g, 2 mmol) in THF (10 mL) were added CH3MgBr (2 mL, 6 mmol) at −78° C. The mixture was stirred at −78° C. for 3 hr. Water (4 mL) was added and the mixture was extracted by ethyl acetate (30 mL*3). The organic layer was washed with brine and dried over sodium sulfate. The crude product was concentrated and purified by pre-TLC (eluted: petroleum ether/ethyl acetate=4/1) to give tert-butyl 1-(3-hydroxy-3-methylbutan-2yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (300 mg, 49%).

reactant | tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H pyrrolo[2,3-b]pyridine-3-carboxylate | 2 mmol, 0.6 g | CC1=C(C=2C(=NC=CC2)N1C(C)C(C)=O)C(=O)OC(C)(C)C | C17H22N2O3
reactant | CH3MgBr | 6 mmol, 2 mL | C[Mg+].[Br-]
reactant | Water | 4 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-(3-hydroxy-3-methylbutan-2yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 300 mg, 49% | OC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)(C)C | C18H26N2O3
